US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-N′-phenylcyclopropane-1,1-dicarboxamide hydrochloride
A suspension of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-N′-phenylcyclopropane-1,1-dicarboxamide (960 mg, 1.87 mmol) in methyl ethyl ketone (9.6 mL) was stirred with heating at 60° C., and 6N hydrochloric acid was added. The mixture was cooled to room temperature and left standing for 20 hr. The precipitate was filtered and washed with methyl ethyl ketone to give the title compound (697 mg, 68%) as white crystals.

reactant | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-N′-phenylcyclopropane-1,1-dicarboxamide | 1.87 mmol, 960 mg | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C2(CC2)C(=O)NC2=CC=CC=C2)F)C1 | C28H24FN5O4
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | methyl ethyl ketone | 9.6 mL | C(C)C(=O)C | C4H8O
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-N′-phenylcyclopropane-1,1-dicarboxamide hydrochloride | 697 mg, 68% | Cl.C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C2(CC2)C(=O)NC2=CC=CC=C2)F)C1 | InChI=1S/C28H24FN5O4.ClH/c29-21-14-19(31-27(37)28(12-13-28)26(36)30-18-4-2-1-3-5-18)8-10-22(21)38-20-9-11-24-32-23(16-34(24)15-20)33-25(35)17-6-7-17;/h1-5,8-11,14-17H,6-7,12-13H2,(H,30,36)(H,31,37)(H,33,35);1H
